US04798833
A mixture of 2-amino-6-chloropurine (4.07 g, 0.024 mol), dimethyl itaconate (5.00 g, 0.032 mol), and sodium hydride (55% in oil, 0.2 g) in 50 ml of dry dimethylformamide was stirred at room temperature for 3 days. About 50 ml of water was added and the mixture was washed with n-hexane (2×50 ml) and then extracted with 2×50 ml of dichloromethane. The combined CH2Cl2 extracts were washed with 2×20 ml of water, dried with magnesium sulfate, and evaporated in vacuum. Treatment with ether and drying afforded a white crystalline product. Chromatography (silica gel, chloroform+methanol 15+1) yielded 5.54 g (71%) or recrystallization (MeOH-H2O) yielded 5.15 g (66.1%) of dimethyl 2-(2-amino-6-chloropurin-9-ylmethyl)succinate.

reactant | 2-amino-6-chloropurine | 0.024 mol, 4.07 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | dimethyl itaconate | 0.032 mol, 5.00 g | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | dimethyl 2-(2-amino-6-chloropurin-9-ylmethyl)succinate | 5.15 g, 66.1% | NC1=NC(=C2N=CN(C2=N1)CC(C(=O)OC)CC(=O)OC)Cl | C12H14ClN5O4
